US05059597
d) 4-Methyl-2,8-diazabicyclo[4.3.0]nonane
8.0 g (35 mmol) of 8-benzyl-4-methyl-2,8-diazabicyclo[4.3.0]nonane are dissolved in 60 ml of methanol and hydrogenated over palladium on acitive charcoal at 100° C. and under 100 bar. Then the catalyst is filtered off, the filtrate is concentrated by evaporation and the residue is distilled.

reactant | 8-benzyl-4-methyl-2,8-diazabicyclo[4.3.0]nonane | 35 mmol, 8.0 g | C(C1=CC=CC=C1)N1CC2CC(CNC2C1)C | C15H22N2
solvent | methanol | 60 ml | CO | CH4O
solvent | palladium | [Pd] | Pd
solvent | charcoal | C | CH4
product | 4-Methyl-2,8-diazabicyclo[4.3.0]nonane | CC1CNC2CNCC2C1 | C8H16N2
